US04038198
(d) pentaerythritol (= 1 mol of pentaerythritol + 4 mols of ethylene oxide)
Similar viscosities are obtained by initially heating the polyalcohols (a) to (d) with polyphosphoric acid (= phosphoric acid dehydrated above 200° C.), resulting once again in the formation of acid semi-esters and diester mixtures through cleavage of the anhydridic phosphorus-oxygen-phosphorus bond. These acid semi-ester and di-ester mixtures are mixed with the multicomponent mixture of 1 mol of ε-caprolactam, 1 mol of trimethylol propane and 1 mol of water.

reactant | ε-caprolactam | 1 mol | C1(CCCCCN1)=O | C6H11NO
reactant | trimethylol propane | 1 mol | C(O)C(CC)(CO)CO | C6H14O3
reactant | water | 1 mol | O | H2O
product | pentaerythritol | OCC(CO)(CO)CO | C5H12O4
